US07622605B2
Step 8: 6-Cyclopentyl-6-[2-(5-ethoxy-2-ethylpyridin-4-yl)ethyl]dihydro-2H-pyran-2,4(3H-dione
Methyl acetoacetate (1.2 mL, 10.9 mmol) was added to a cooled −50° C. suspension of LDA [prepared from diisopropylamine (3.0 mL, 21.8 mmol), and n-BuLi (8.7 mL, 21.8 mmol) dissolved in THF (30 mL)]. The reaction was stirred for 30 mins and then a solution of 1-cyclopentyl-3-(5-ethoxy-2-ethyl-pyridin-4-yl)-propan-1-one (1.0 g, 3.6 mmol) dissolved in THF (30 mL) was added. The reaction was warmed to room temperature and stirred for 2 hours. The reaction was poured into 1 N NaOH and extracted with EtOAc. The organic layers were dried over MgSO4 and concentrated. The residue was dissolved in methanol (100 mL), treated with potassium carbonate (1.5 g, 10.9 mmol), and refluxed under N2 for 120 mins. The reaction mixture was partitioned between H2O and IPE. The aqueous layer was made neutral with 1N HCl and extracted with EtOAc. The organic layers were dried over MgSO4 and concentrated to give the product (1.3 g, 99% yield). 1H NMR (400 MHz, CDCl3): δ 1.26 (t, J=7.6 Hz, 3H), 1.43 (t, J=6.8 Hz, 3H), 1.50-2.05 (br m, 9H), 2.34 (m, 2H), 2.62-2.77 (m, 6H), 3.44 (m, 2H), 4.11 (q, J=6.8 Hz, 2H), 6.90 (s, 1H), 8.08 (s, 1H).

reactant | Methyl acetoacetate | 10.9 mmol, 1.2 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | LDA | 21.8 mmol, 3.0 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1-cyclopentyl-3-(5-ethoxy-2-ethyl-pyridin-4-yl)-propan-1-one | 3.6 mmol, 1.0 g | C1(CCCC1)C(CCC1=CC(=NC=C1OCC)CC)=O | C17H25NO2
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | potassium carbonate | 10.9 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-Cyclopentyl-6-[2-(5-ethoxy-2-ethylpyridin-4-yl)ethyl]dihydro-2H-pyran | 1.3 g, 99% yield | C1(CCCC1)C1(CCCCO1)CCC1=CC(=NC=C1OCC)CC | C21H33NO2
